US05635510
47.3 Synthesis of 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one
Mix 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide (20 mmol) and hot toluene (240 mL). Add dimethoxy-N,N-dimethylmethanamine (20 mL) and heat at reflux for 48 h. Concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide | 20 mmol | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC1=CC=C(C=C1)F | C19H22FN3O
reactant | dimethoxy-N,N-dimethylmethanamine | 20 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
product | 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)F)=O)CC1 | C20H20FN3O
